US04426386
EXAMPLE I3. N-Pentyl-3-(3-methoxyphenyl)piperidine (Method A1 and d)
To a solution of 3-(3-methoxyphenyl)piperidine (3.92 g, 0.02 mol) in CH3CN (100 ml), solid K2CO3 (5 g) was added and then the mixture was refluxed. A solution of pentyliodide (4.5 g, 0.021 mol) in CH3CN (10 ml) was added dropwise under 30 min. and then the mixture was refluxed for an additional 30 min. The solid was filtered off from the cooled mixture, and the solvent evaporated giving an oil which was chromatographed on a silica gel column with methanol as eluant. Yield 1.3 g (25%) of pure N-pentyl-3-(3-methoxyphenyl)piperidine (NMR) as an oil.

reactant | 3-(3-methoxyphenyl)piperidine | 0.02 mol, 3.92 g | COC=1C=C(C=CC1)C1CNCCC1 | C12H17NO
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | pentyliodide | 0.021 mol, 4.5 g | C(CCCC)I | C5H11I
solvent | CH3CN | 100 ml | CC#N | C2H3N
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | N-Pentyl-3-(3-methoxyphenyl)piperidine | C(CCCC)N1CC(CCC1)C1=CC(=CC=C1)OC | C17H27NO
